US05834611
U.S. Pat. Nos. 4,356,333 and 4,417,079 and EP-A 436 226 describe a two-phase system for the telomerization of butadiene with water to give octadienol. The reaction is carried out in a water/sulfolane mixture from which the octadienols formed precipitate. The palladium catalyst is retained in the sulfolane phase by means of monosulfonated triphenylphosphine (TPPMS).

reactant | butadiene | C=CC=C | C4H6
reactant | water | O | H2O
product | octadienol | C(=CC=CCCCC)O | C8H14O
